US06852731B2
N-(4-Chlorobenzyl)-2-{[[(2R)-2-(2-furyl)-2-hydroxyethyl](methyl)amino]methyl}-3-(hydroxymethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A solution of 121 mg of compound N-(4-chlorobenzyl)-2-{[[(2R)-2-(2-furyl)-2-hydroxyethyl](methyl)amino]methyl}-4-methyl-7-oxo-3-{[2-(trimethylsilyl)ethoxy]methyl}-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide in 3 mL of 75% TFA in CH2Cl2 is stirred at room temperature for 3 h, then diluted with CHCl3 and added to stirred aq. NaHCO3. The aqueous phase is extracted with 4 portions of CH2Cl2, and the combined organic phases dried (Na2SO4) and concentrated under reduced pressure. Flash chromatography of the residue on silica gel using 3% MeOH in CH2Cl2 provides 19 mg of the title compound as a brown solid. Recrystallization from EtOAc-hexane affords granular brown crystals.

reactant | N-(4-chlorobenzyl)-2-{[[(2R)-2-(2-furyl)-2-hydroxyethyl](methyl)amino]methyl}-4-methyl-7-oxo-3-{[2-(trimethylsilyl)ethoxy]methyl}-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(C)C[C@@H](O)C=3OC=CC3)COCC[Si](C)(C)C)=O)C=C1 | C30H38ClN3O5SSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | N-(4-Chlorobenzyl)-2-{[[(2R)-2-(2-furyl)-2-hydroxyethyl](methyl)amino]methyl}-3-(hydroxymethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 19 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(C)C[C@@H](O)C=3OC=CC3)CO)=O)C=C1 | C25H26ClN3O5S
